US05519048
a) 3-Methoxy-2-phenyl-propenoic acid, methyl ester
Combine hexane washed sodium hydride (24 g, 60% in oil, 580 mmol) and tetrahydrofuran (400mL). Cool to about 5° C. Simultaneously, add dropwise methyl phenylacetate (40 g, 270 mmol) and the methyl formate (35 g, 580 mmol). Add methanol (0.5 mL). Warm to ambient temperature. After 18 hours, pass nitrogen gas over the reaction mixture to remove the solvent to give a residue. Dissolve the residue in dimethylformamide (400 mL) and cool to about 5° C. Slowly add methyl iodide (76 g, 540 mmol). After the addition is complete, warm to ambient temperature. After 3 hours, pour the reaction mixture into water and extract 2 times with diethyl ether. Extract the combined organic layers 5 times with water and once with aqueous saturated sodium chloride solution. Dry the organic layer over MgSO4 and evaporate in vacuo to give the title compound.

reactant | sodium hydride | 580 mmol, 24 g | [H-].[Na+]
reactant | methyl phenylacetate | 270 mmol, 40 g | C1(=CC=CC=C1)CC(=O)OC | C9H10O2
reactant | methyl formate | 580 mmol, 35 g | C(=O)OC | C2H4O2
reactant | methyl iodide | 540 mmol, 76 g | CI | CH3I
solvent | dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | methanol | 0.5 mL | CO | CH4O
solvent | tetrahydrofuran | 400mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-Methoxy-2-phenyl-propenoic acid, methyl ester | COC=C(C(=O)OC)C1=CC=CC=C1 | C11H12O3
